US05093031
Example XXVIII is repeated except that only 12.17 g (0.05 mole) of N-dodecyl-2-pyrrolidone is used and 13.32 g (0.05 mole) of pentachlorophenol is substituted for 11.1 g of hydroquinone and the resulting melt is heated at 120° C. for 30 minutes. A solid crystalline micellular complex of 1:1 molar N-dodecyl-2-pyrrolidone/pentachlorophenol is formed.

reactant | N-dodecyl-2-pyrrolidone | 0.05 mole, 12.17 g | C(CCCCCCCCCCC)N1C(CCC1)=O | C16H31NO
reactant | pentachlorophenol | 0.05 mole, 13.32 g | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | hydroquinone | 11.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | N-dodecyl-2-pyrrolidone pentachlorophenol | 1 molar | C(CCCCCCCCCCC)N1C(CCC1)=O.ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | InChI=1S/C16H31NO.C6HCl5O/c1-2-3-4-5-6-7-8-9-10-11-14-17-15-12-13-16(17)18;7-1-2(8)4(10)6(12)5(11)3(1)9/h2-15H2,1H3;12H
